US07285558B2
(a) tert-butyl 5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]4-methyl-1,3-thiazol-2-ylcarbamate
This compound was made following the procedure described above, starting with 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 6-chloroquinoline-4-carbaldehyde, followed by tert-butyl 5-formyl-4-methyl-1,3-thiazol-2-ylcarbamate.

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | tert-butyl 5-formyl-4-methyl-1,3-thiazol-2-ylcarbamate | C(=O)C1=C(N=C(S1)NC(OC(C)(C)C)=O)C | C10H14N2O3S
product | tert-butyl 5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]4-methyl-1,3-thiazol-2-ylcarbamate | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=C(N=C(S1)NC(OC(C)(C)C)=O)C)=O)C)=O)CC1CC1 | C29H30ClN7O4S
